US04529548
(11β,17α)-17-(Ethylthio)-9-fluoro-11-hydroxyandrosta-1,4-dien-3-one
A suspension of 50% sodium hydride-paraffin (300 mg, 6.5 mmole) in dry dimethylformamide (20 ml) was cooled and stirred in an ice-water bath and ethanethiol (0.67 ml, 9.0 mmole) was added. The ice bath was then removed and the mixture was stirred at room temperature until a clear solution resulted. Then, (11β,17β)-11-(acetyloxy)-9-fluoro-17-(methanesulfonyloxy)androsta-1,4-dien-3-one (540 mg, 1.21 mmole) was added. The resulting solution was heated in a bath at 110°-120° C. under an atmosphere of nitrogen for 5.0 hours. After cooling to room temperature, water (1.0 ml) was added and the mixture was stirred for 20 minutes. The mixture was then added into water (150 ml) and was extracted with chloroform (3×50 ml). The extracts were combined, washed with water, dried (anhydrous magnesium sulfate) and evaporated to afford the title compound as a solid contaminated with paraffin. It was dissolved in chloroform-hexane (7:3; 20 ml) and absorbed on a column of silica gel (15 g). The column was then successively eluted with chloroform and chloroform:ethyl acetate (85:15) to afford the homogeneous (tlc) title compound as a solid (380 mg) from the later fractions. One crystallization from ethyl acetate-hexane followed by drying (110° C., 0.3 mm of Hg, 6 hours) gave the analytical specimen (362 mg), melting point 196°-197° C. with consistent spectral data.

reactant | ethanethiol | 9.0 mmole, 0.67 ml | C(C)S | C2H6S
reactant | (11β,17β)-11-(acetyloxy)-9-fluoro-17-(methanesulfonyloxy)androsta-1,4-dien-3-one | 1.21 mmole, 540 mg | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)OS(=O)(=O)C)=O)C)F | C22H29FO6S
reactant | water | 1.0 ml | O | H2O
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (11β,17α)-17-(Ethylthio)-9-fluoro-11-hydroxyandrosta-1,4-dien-3-one | C(C)S[C@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O | C21H29FO2S
